US08349851B2
To a solution of 2-amino-3-methylbenzamide (1.50 g, 10.0 mmol) and DIEA (2.61 mL, 15 mmol) in THF (50 mL) at 0° C. was added ethyl chlorooxoacetate (1.23 mL, 11.0 mmol). The solution was allowed to warm to rt and stir for 16 h, then was concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 20-100% EtOAc/hexanes to afford ethyl 2-(2-carbamoyl-6-methylphenylamino)-2-oxoacetate as a solid (490 mg, 20%). 1H NMR (300 MHz, DMSO-d6) δ 1.31 (t, J=7.1 Hz, 3H), 2.17 (s, 3H), 4.30 (q, J=7.1 Hz, 2H), 7.28 (t, 1H), 7.33-7.57 (m, 3H), 7.82 (s, 1H), 10.67 (s, 1H).

reactant | 2-amino-3-methylbenzamide | 10.0 mmol, 1.50 g | NC1=C(C(=O)N)C=CC=C1C | C8H10N2O
reactant | DIEA | 15 mmol, 2.61 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl chlorooxoacetate | 11.0 mmol, 1.23 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 2-(2-carbamoyl-6-methylphenylamino)-2-oxoacetate | 490 mg, 20% | C(N)(=O)C1=C(C(=CC=C1)C)NC(C(=O)OCC)=O | C12H14N2O4
